US07273868B2
To a suspension of 2-methylthio-4-(3-chloro-4-methoxybenzylamino)-5-hydroxymethylpyrimidine (prepared in the above (1)) 25.10 g in chloroform 150 ml is a manganese dioxide powder 37.6 g (one and a half of the starting material) and the mixture is vigorously stirred at room temperature for a day. Further the mixture is treated with a manganese dioxide powder 12.6 g (a half of the starting material) and the mixture is stirred for three nights. The insoluble materials are filtered off with Celite and the filtrate is concentrated in vacuo. The residue is suspended in ethyl acetate-isopropyl ether. The precipitate is filtered and washed with isopropyl ether and hexane in order, to give 2-methylthio-4-(3-chloro-4-methoxybenzylamino)-5-formylpyrimidine as colorless crystals, 22.43 g. mp 124-125° C.

reactant | 2-methylthio-4-(3-chloro-4-methoxybenzylamino)-5-hydroxymethylpyrimidine | CSC1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)CO | C14H16ClN3O2S
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 37.6 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 12.6 g | [O-2].[O-2].[Mn+4]
product | 2-methylthio-4-(3-chloro-4-methoxybenzylamino)-5-formylpyrimidine | CSC1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C=O | C14H14ClN3O2S
